US09301951B2
Intermediate 180a: tert-butyl 1-(1H-indol-4-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate
To a mixture of 1H-indole-4-carboxylic acid (322 mg, 2.00 mmol), tert-butyl 3-(2-(2-(2-aminoethoxy)ethoxy)ethoxy)propanoate (554 mg, 2.00 mmol), and diisporopylethylamine (700 μL, 4.00 mmol) in DMF (3 mL) was added HATU (950 mg, 2.50 mmol) and the solutions stirred for 16 h. The solvent was removed and the resulting residue was purified by silica gel chromatography, using a gradient of 70% to 100% EtOAc in hexanes as eluent and the solvent removed. This gave 557 mg (66%) of the product.

reactant | 1H-indole-4-carboxylic acid | 2.00 mmol, 322 mg | N1C=CC=2C(=CC=CC12)C(=O)O | C9H7NO2
reactant | tert-butyl 3-(2-(2-(2-aminoethoxy)ethoxy)ethoxy)propanoate | 2.00 mmol, 554 mg | NCCOCCOCCOCCC(=O)OC(C)(C)C | C13H27NO5
reactant | HATU | 2.50 mmol, 950 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-butyl 1-(1H-indol-4-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate | N1C=CC2=C(C=CC=C12)C(NCCOCCOCCOCCC(=O)OC(C)(C)C)=O | C22H32N2O6
